US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (20.7 g, 36.5 mmol) and ammonia hydroxide (500 mL) was heated in a steel reactor to 100° C. After 3 h, the reaction cooled and checked by HPLC. The reaction mixture was concentrated. The reaction mixture wad diluted with CH2Cl2 (300 mL) and water (300 mL) then acidified with 6 N HCl to pH=1. The mixture was extracted with 1% MeOH in CH2Cl2 (4×). The CH2Cl2 layer were dried over Na2SO4 and filtered and concentrated to 400 mL. Ethanol (400 mL) was added to the reaction mixture and concentrated to dryness. Ethanol (400 mL) was added again to the reaction mixture and concentrated to dryness. Ethanol (500 mL) was added to the reaction mixture and refluxed. After 4 h, the reaction mixture was cooled to 0° C., filtered, and wash with EtOH. The product was dried under vacuum at 60° C. for 2 days. Title compound was obtained as an off-white solid (17 g, 85% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.90 (br. s., 1H), 7.98 (d, J=5.3 Hz, 1H), 7.56-7.84 (m, 1H), 6.93-7.54 (m, 5H), 6.77 (br. s., 2H), 5.85 (d, J=4.6 Hz, 1H), 3.92 (d, J=9.9 Hz, 2H), 3.46 (t, J=11.2 Hz, 2H), 3.20-3.32 (m, 1H), 1.90-2.06 (m, 2H), 1.57-1.81 (m, 2H). MS (ESI): 548.10 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 36.5 mmol, 20.7 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H18ClF3N4O3S2
reactant | ammonia hydroxide | 500 mL | [OH-].N
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H20F3N5O3S2
